US08236985B2
tert-Butyl (E,E)-4-methyl-5-(4-aminophenyl)penta-2,4-dienoate (4c)
Tin(ii) chloride dihydrate (11.5 g, 51 mmol) was added to a stirred solution of tert-butyl (E,E)-4-methyl-5-(4-nitrophenyl)penta-2,4-dienoate (3.67 g, 12.7 mmol) in methanol (75 ml). The mixture was stirred and heated at reflux and the reaction monitored by HPLC. After 70 min, 4% starting material remained and there were two new products comprising 90 and 6% respectively. The cool mixture was concentrated in vacuo, water (75 ml) was added to the residue and then 2N NaOH solution until at pH 11. Ethyl acetate (150 ml) was added and the mixture filtered through Celite. The EtOAc layer was washed with 5% NaCl solution, dried over MgSO4 and concentrated in vacuo. The residual oil was stirred in diisopropyl ether (20 ml) for 10 min, insoluble by-products removed by filtration and the filtrate concentrated in vacuo to give 2.8 g (86%) of a yellow solid, mp 99-101° C.

reactant | Tin(ii) chloride dihydrate | 51 mmol, 11.5 g | O.O.[Sn](Cl)Cl
reactant | tert-butyl (E,E)-4-methyl-5-(4-nitrophenyl)penta-2,4-dienoate | 12.7 mmol, 3.67 g | C/C(/C=C/C(=O)OC(C)(C)C)=C\C1=CC=C(C=C1)[N+](=O)[O-] | C16H19NO4
solvent | methanol | 75 ml | CO | CH4O
product | tert-Butyl (E,E)-4-methyl-5-(4-aminophenyl)penta-2,4-dienoate | 2.8 g, 86% | C/C(/C=C/C(=O)OC(C)(C)C)=C\C1=CC=C(C=C1)N | C16H21NO2
